US05455273
i) trans-N-(4-chlorobenzoyl)-N-hexyl-4-phenylcyclohexylamine
from trans-N-hexyl-4-phenylcyclohexylamine and 4-chlorobenzoylchloride. Melting point: 105° C.

reactant | trans-N-hexyl-4-phenylcyclohexylamine | C(CCCCC)N[C@@H]1CC[C@H](CC1)C1=CC=CC=C1 | C18H29N
reactant | 4-chlorobenzoylchloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | trans-N-(4-chlorobenzoyl)-N-hexyl-4-phenylcyclohexylamine | ClC1=CC=C(C(=O)N(CCCCCC)[C@@H]2CC[C@H](CC2)C2=CC=CC=C2)C=C1 | C25H32ClNO
